US04352803
To a solution of potassium carbonate (1.52 g) in ethanol (40 ml) which was kept at 90°-95° C., was added ethyl 7-(4-acetyl-1-piperazinyl)-6-chloro-1-(2-chloroethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (4.0 g) and the mixture was heated to reflux for 1.5 hours. After the mixture was cooled, the resulting potassium 7-(4-acetyl-1-piperazinyl)-6-chloro-1,4-dihydro-4-oxo-1-vinyl-1,8-naphthyridine-3-carboxylate was collected, and dissolved in 30 ml of water and 20 ml of 1 N sodium hydroxide. The mixture was heated to reflux for 2 hours and acidified with acetic acid, and then adjusted to pH 8 with ammonia solution to give a precipitate. The precipitate was dissolved in diluted hydrochloric acid and adjusted again to pH 8 with ammonia water to give 1.56 g of 6-chloro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1-vinyl-1,8-naphthyridine-3-carboxylic acid, m.p. 272°-274° C.

reactant | potassium carbonate | 1.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 7-(4-acetyl-1-piperazinyl)-6-chloro-1-(2-chloroethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 4.0 g | C(C)(=O)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CCCl)C(=O)OCC)=O)Cl | C19H22Cl2N4O4
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | hydrochloric acid | Cl | ClH
solvent | ammonia water | O.N
product | 6-chloro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1-vinyl-1,8-naphthyridine-3-carboxylic acid | 1.56 g | ClC=1C=C2C(C(=CN(C2=NC1N1CCNCC1)C=C)C(=O)O)=O | C15H15ClN4O3
